US05132311
N-Cyano-1,2,3,4-tetrahydro-N'-[1-(phenylmethyl)-4-piperidinyl]-2-isoquinolinecarboximidamide
5 mmole of diphenylcyanocarbonimidate (M.W. 238) in 15 ml of acetonitrile was added to 5 mmole of 1,2,3,4-tetrahydroisoquinoline at room temperature. After four hours of stirring at room temperature 5 mmole of 4-amino-1-benzyl piperidine was added to the reaction and stirring continued for an additional 2 hours. The mixture was then placed in a high pressure environment (20,000 psi) for 17 hours. The solution was evaporated and the residue was separated and purified by column chromatography (toulene:ethylacetate:triethylamine, 40:60:1).

reactant | diphenylcyanocarbonimidate | 5 mmole | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
reactant | 1,2,3,4-tetrahydroisoquinoline | 5 mmole | C1NCCC2=CC=CC=C12 | C9H11N
reactant | 4-amino-1-benzyl piperidine | 5 mmole | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | N-Cyano-1,2,3,4-tetrahydro-N'-[1-(phenylmethyl)-4-piperidinyl]-2-isoquinolinecarboximidamide | C(#N)NC(=NC1CCN(CC1)CC1=CC=CC=C1)N1CC2=CC=CC=C2CC1 | C23H27N5
